US07371863B2
To a stirred solution of 6-benzyl-3-hydroxy-isoxazolo[5,4-c]pyridin-6-ium bromide (93 g, 303 mmol) in ethanol/water (500 mL/500 mL) was added NaBH4 (18.66 g, 494 mmol) cautiously portionwise, keeping the temperature under 35° C. (caution! Foams on addition!). The mixture was stirred for 24 h. The mixture was filtered, and the residue was washed with water. The combined filtrates were evaporated under reduced pressure until all of the ethanol had evaporated. A solid began to precipitate, and so the mixture was cooled in an ice-water bath with stirring for 30 min. The solution was filtered, and the residue was washed with cold water. The residue was dried to give 6-benzyl-4,5,6,7-tetrahydro-isoxazolo[5,4-c]pyridin-3-ol (48.6 g, 70%; HPLC 94% pure) as a yellowish solid. After some further evaporation of the combined mother liquors, a second crop gave a further 10.3 g (HPLC: 97.7% pure).

reactant | 6-benzyl-3-hydroxy-isoxazolo[5,4-c]pyridin-6-ium bromide | 303 mmol, 93 g | [Br-].C(C1=CC=CC=C1)[N+]=1C=C2C(=CC1)C(=NO2)O
reactant | NaBH4 | 494 mmol, 18.66 g | [BH4-].[Na+]
solvent | ethanol water | 500 mL | C(C)O.O
product | 6-benzyl-4,5,6,7-tetrahydro-isoxazolo[5,4-c]pyridin-3-ol | 48.6 g | C(C1=CC=CC=C1)N1CC2=C(CC1)C(=NO2)O | C13H14N2O2
